US06939867B2
Preparation of 2-[2-(tert-Butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethylamino]-ethanol (I-3a):
A solution of ethanolamine (1.2 mL), (R)-toluene-4-sulfonic acid 2-(tert-butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl ester (2.2 g) and diisopropylethylamine (1.3 mL) in DMSO (5 mL) was heated at 80° C. for 4 h. After cooling, the reaction solution was diluted into ethyl acetate, washed with water (2×), brine, dried (Na2SO4) and concentrated in vacuo to afford the title compound (I-3a) as an oil.

reactant | ethanolamine | 1.2 mL | C(O)CN | C2H7NO
reactant | (R)-toluene-4-sulfonic acid 2-(tert-butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethyl ester | 2.2 g | C(C)(C)(C)[Si](O[C@@H](COS(=O)(=O)C1=CC=C(C=C1)C)C=1C=NC(=CC1)Cl)(C)C | C20H28ClNO4SSi
reactant | diisopropylethylamine | 1.3 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | 2-[2-(tert-Butyl-dimethyl-silanyloxy)-2-(6-chloro-pyridin-3-yl)-ethylamino]-ethanol | C(C)(C)(C)[Si](OC(CNCCO)C=1C=NC(=CC1)Cl)(C)C | C15H27ClN2O2Si
